US04376776
11.9 g (0.15 mole) of pyridine were added to a suspension of 26.2 g (0.1 mole) of 2-(7-chlorodibenzofuran-3-oxy)-ethanol in 100 ml of dry toluene, and 17.9 g (0.15 mole) of thionyl chloride were then added dropwise at 3°-15° C. The mixture was stirred for 1 day at 40° C. and for a further 8 hours at 70° C. and cooled, and 150 ml of toluene and 200 ml of ice-water were added. The organic layer was washed with 100 ml of water, 50 ml of hydrochloric acid and 50 ml of 1 N sodium hydroxide solution in succession and finally with 100 ml of water, and was dried and concentrated. The solid residue was stirred with 40 ml of petroleum ether at +3° C. (ice-bath) for 30 minutes, filtered off with suction, washed with a little cold petroleum ether and dried. 22.8 g of 1-chloro-2-(7-chlorodibenzofuran-3-oxy)-ethane were obtained as colorless crystals of melting point 105°-107° C.; yield: 81% of theory.

reactant | pyridine | 0.15 mole, 11.9 g | N1=CC=CC=C1 | C5H5N
reactant | 2-(7-chlorodibenzofuran-3-oxy)-ethanol | 0.1 mole, 26.2 g | ClC1=CC2=C(C3=C(O2)C=C(C=C3)OCCO)C=C1 | C14H11ClO3
reactant | thionyl chloride | 0.15 mole, 17.9 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
product | 1-chloro-2-(7-chlorodibenzofuran-3-oxy)-ethane | 22.8 g, yield: 81% | ClCCOC=1C=CC2=C(OC3=C2C=CC(=C3)Cl)C1 | C14H10Cl2O2
